US08242143B2
117 mg (0.50 mmol, 1 eq) 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine, 0.50 mL (5 mmol, 10 eq) 2-methylpyrrolidine and 1 mL NMP were combined. The reaction mixture was heated at 200° C. for 15 min, quenched with pH 10 PBS, extracted with DCM. Silica gel chromatography (gradient 10% to 40% EtOAc/Hexanes) gave 2-(2-methylpyrrolidin-1-yl)-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine (L-001152863). LC-MS calculated for C15H16N4S 284, observed m/e 285.3 (M+H)+.

reactant | 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine | 0.50 mmol, 117 mg, 1 eq | ClC1=NC=C(C=N1)C#CC=1N=C(SC1)C | C10H6ClN3S
reactant | 2-methylpyrrolidine | 5 mmol, 0.50 mL, 10 eq | CC1NCCC1 | C5H11N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 2-(2-methylpyrrolidin-1-yl)-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyrimidine | CC1N(CCC1)C1=NC=C(C=N1)C#CC=1N=C(SC1)C | C15H16N4S
